US04645765
To a solution of 11-acetyl-6,9-dihydroxy-8-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carbaldehyde (18 mg) in dimethylformamide (1.0 ml) was added a mixture of phenyl isocyanate (12.5 μl) in dimethylformamide (1.25 ml) in an ice-water bath. The mixture was stirred for 30 minutes in an ice-water bath and then stirred for additional 1 hour at ambient temperature. The mixture was evaporated in vacuo and subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and methanol (15:1, v/v) to afford 11-acetyl-4-formyl-9-hydroxy-6-(N-phenylcarbamoyloxy)-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl N-phenyl-carbamate (12 mg).

reactant | 11-acetyl-6,9-dihydroxy-8-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carbaldehyde | 18 mg | C(C)(=O)N1C2C3(C(C4=C(C=C(C=C4N(CC12)O3)C=O)O)CO)O | C15H16N2O6
reactant | phenyl isocyanate | 12.5 μl | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1.25 ml | CN(C=O)C | C3H7NO
product | 11-acetyl-4-formyl-9-hydroxy-6-(N-phenylcarbamoyloxy)-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl N-phenyl-carbamate | 12 mg | C1(=CC=CC=C1)NC(OCC1C2=C(C=C(C=C2N2CC3N(C3C1(O2)O)C(C)=O)C=O)OC(NC2=CC=CC=C2)=O)=O | C29H26N4O8
